US09145380B2
3-(2-Methylthiazol-4-yl)-N-(2-sulfamoylphenyl)benzenesulfonamide
The title compound was synthesized as described for Example 178 in 5% yield, starting from 2-aminobenzenesulfonamide and 3-(2-methylthiazol-4-yl)benzene-1-sulfonyl chloride.

reactant | 2-aminobenzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 3-(2-methylthiazol-4-yl)benzene-1-sulfonyl chloride | CC=1SC=C(N1)C=1C=C(C=CC1)S(=O)(=O)Cl | C10H8ClNO2S2
product | 3-(2-Methylthiazol-4-yl)-N-(2-sulfamoylphenyl)benzenesulfonamide | 5% yield | CC=1SC=C(N1)C=1C=C(C=CC1)S(=O)(=O)NC1=C(C=CC=C1)S(N)(=O)=O | C16H15N3O4S3
